US06897231B2
A. 2-Indol-3-yl-2-oxo-N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)acetamide
To a solution of 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine (0.150 g, 0.248 mmol) in 2.5 mL of tetrahydrofuran was added 2-indol-3-yl-2-oxoacetyl chloride (0.103 g, 0.496 mmol), followed by triethyl amine (0.173 mL, 1.24 mmol). The reaction was stirred at room temperature overnight. The reaction mixture was then partitioned between ethyl acetate and water. The crude material that was obtained from evaporation of the extracts was not purified further. (Yield not calculated) ES-MS (m/z) 774 [M+H]+.

reactant | 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine | 0.248 mmol, 0.150 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)N | C39H34N6O
reactant | 2-indol-3-yl-2-oxoacetyl chloride | 0.496 mmol, 0.103 g | N1C=C(C2=CC=CC=C12)C(C(=O)Cl)=O | C10H6ClNO2
reactant | triethyl amine | 1.24 mmol, 0.173 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | 2-Indol-3-yl-2-oxo-N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)acetamide | N1C=C(C2=CC=CC=C12)C(C(=O)NC1=CC(=CC=C1)C1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1)=O | C49H39N7O3
